US07723329B2
2-(2-Chloro-ethoxy)-4-fluoro-1-nitro-benzene
In a round bottom flask under nitrogen, 2-chloro-ethanol (8.3 mL, 120 mmoles) in THF (40 mL) was cooled to 0° C. LDA (60 mL, 120 mmoles) was added dropwise, while maintaining the temperature constant at 0° C. The mixture was stirred at this temperature for 15 minutes, followed by the addition of 2,4-difluoronitrobenzene (11 mL, 100 mmoles). The mixture was stirred at room temperature overnight. Reaction mixture was diluted with water, extracted with EtOAc, washed with brine (1×), dried over Na2SO4, and concentrated under vacuum, to afford the title compound as an off-white solid (20.0 g, 91 mmoles).

reactant | 2-chloro-ethanol | 120 mmoles, 8.3 mL | ClCCO | C2H5ClO
reactant | LDA | 120 mmoles, 60 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2,4-difluoronitrobenzene | 100 mmoles, 11 mL | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-Chloro-ethoxy)-4-fluoro-1-nitro-benzene | 91 mmoles, 20.0 g | ClCCOC1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H7ClFNO3
